US09216980B2
Step 4: 3,6-Dibromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of hydrogen bromide (33%) in acetic acid (1.10 mL, 6.08 mmol) was added to 6-amino-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (80.1 mg, 0.304 mmol) at 0° C. To the resulting suspension was added bromine (18 μL, 0.34 mmol), and then a 1N solution of sodium nitrite in water (0.43 mL, 0.43 mmol), and the mixture was allowed to warm to ambient temperature. After 1 h, the reaction mixture was diluted with concentrated ammonium hydroxide-water (1:1) and DCM, filtered to remove the solid, and the filtrate layers separated. The aqueous phase was extracted into DCM and the combined organic phase was concentrated in vacuo. The residue was purified by flash chromatography (silica, 0-100% ethyl acetate in hexanes).

reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 6.08 mmol, 1.10 mL | C(C)(=O)O | C2H4O2
reactant | 6-amino-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.304 mmol, 80.1 mg | NC1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C10H7BrN4
reactant | bromine | 0.34 mmol, 18 μL | BrBr | Br2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | water | 0.43 mmol, 0.43 mL | O | H2O
solvent | ammonium hydroxide water | [OH-].[NH4+].O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3,6-Dibromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | BrC1=CC2=C(NC3=C2C=C(N=C3)Br)N=C1 | C10H5Br2N3
